US06384065B1
In a solvent mixture consisting of 21 ml of ethanol and 9 ml of water were dissolved 3.10 g of 4-(4-isopropylphenoxy)-1-cyclohexanone, 2.35 g of L-cysteine hydrochloride monohydrate and 1.10 g of sodium acetate. The mixture was stirred at ambient temperature for 6 hours. The reaction mixture was concentrated under reduced pressure, and water and ethyl ether were added to the concentrate. The deposited crystal was collected by filtration, and there was obtained 2.45 g of (3R)-8-(4-isopropylphenoxy)-1-thia-4-azaspiro[4.5]decan-3-carboxylic acid as a colorless crystalline product.

reactant | ethanol | 21 ml | C(C)O | C2H6O
reactant | 4-(4-isopropylphenoxy)-1-cyclohexanone | 3.10 g | C(C)(C)C1=CC=C(OC2CCC(CC2)=O)C=C1 | C15H20O2
reactant | L-cysteine hydrochloride monohydrate | 2.35 g | O.Cl.N[C@@H](CS)C(=O)O
reactant | sodium acetate | 1.10 g | C(C)(=O)[O-].[Na+]
solvent | water | 9 ml | O | H2O
product | (3R)-8-(4-isopropylphenoxy)-1-thia-4-azaspiro[4.5]decan-3-carboxylic acid | 2.45 g | C(C)(C)C1=CC=C(OC2CCC3(N[C@@H](CS3)C(=O)O)CC2)C=C1 | C18H25NO3S
